US07375204B2
2-Chloro-3,4-dimethoxypyridine
A solution of diisopropylamine (84.0 μl, 0.599 mmol) and the compound of Example B240 (860 mg, 5.99 mmol) in tetrahydrofuran (4 ml) was added to a solution of 1.06 M phenyllithium cyclopentane-diethyl ether solution in tetrahydrofuran (11 ml) cooled to −78° C. under nitrogen atmosphere. This reaction mixture was stirred at −40° C. for 1 hour, then at −18° C. for another 20 minutes. The reaction mixture was cooled again to −78° C., trimethoxyborate (2.04 ml, 18.0 mmol) was added dropwise thereto, and the resulting mixture was stirred at 0° C. for 20 minutes. At that temperature, aqueous ammonia (29%, 30 ml), ammonium chloride (4.5 g), and an aqueous hydrogen peroxide solution (30%, 12 ml) were added in this order, and the mixture was stirred at room temperature for 2 hours. Saturated sodium thiosulfate, acetic acid and ethyl acetate were added, and the mixture was washed with saturated brine. The ethyl acetate layer obtained upon filtration through silica gel was concentrated under reduced pressure. The resulting residue was treated in the same manner as in Example B231 to obtain the title compound (31.3 mg).

reactant | diisopropylamine | 0.599 mmol, 84.0 μl | C(C)(C)NC(C)C | C6H15N
reactant | phenyllithium cyclopentane diethyl ether | 1.06 M | C1CCCC1.C1(=CC=CC=C1)[Li].C(C)OCC
reactant | ammonia | 30 ml | N | H3N
reactant | ammonium chloride | 4.5 g | [Cl-].[NH4+]
reactant | hydrogen peroxide | 12 ml | OO | H2O2
reactant | sodium thiosulfate | S(=S)(=O)([O-])[O-].[Na+].[Na+]
reactant | tetrahydrofuran | 4 ml | O1CCCC1 | C4H8O
reactant | tetrahydrofuran | 11 ml | O1CCCC1 | C4H8O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | 2-Chloro-3,4-dimethoxypyridine | 31.3 mg | ClC1=NC=CC(=C1OC)OC | C7H8ClNO2
